US07064122B2
3-Methyl-5-(3-octyl-ureido)-thiophene-2,4-dicarboxylic acid.
(7.1) To a stirring solution of 3-methyl-5-(3-octyl-ureido)-thiophene-2,4-dicarboxylic acid 4-tert-butyl ester (50.0 mg, 0.13 mmol) in CH2Cl2 (1 mL) was added TFA (1 mL). The reaction was stirred at RT for 2 h, and then solvent was removed under reduced pressure to give a solid. The product was dissolved in EtOAc, washed with sat. NaHCO3 (aq.), and brine. The organic layer was dried with MgSO4, filtered, and concentrated under reduced pressure to give 10.0 mg of a solid (22%): 1H NMR (CDCl3) δ 10.45 (bs, 1H), 6.27 (bs, 1H), 5.00 (bs, 1H), 3.50-3.20 (m, 2H), 2.37 (s, 3H), 1.70-1.40 (m, 2H), 1.26 (bs, 10H), 0.88 (t, 3H, J=6.2 Hz). MS (EI): 312.9 (m+—COOH).

reactant | 3-methyl-5-(3-octyl-ureido)-thiophene-2,4-dicarboxylic acid 4-tert-butyl ester | 0.13 mmol, 50.0 mg | C(C)(C)(C)OC(=O)C=1C(=C(SC1NC(=O)NCCCCCCCC)C(=O)O)C | C20H32N2O5S
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Methyl-5-(3-octyl-ureido)-thiophene-2,4-dicarboxylic acid | 10.0 mg, 22% | CC1=C(SC(=C1C(=O)O)NC(=O)NCCCCCCCC)C(=O)O | C16H24N2O5S
